US04012514
To a deactivated palladium catalyst, which was prepared from 5% palladium on barium sulfate (30 mg) and quinoline (15 mg) in ethanol (6 ml) and chloroform (2 ml) by stirring for 15 minutes under hydrogen, was added a solution of 8-[4(p-fluorophenyl)-4-hydroxy-2-butynyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one (0.80 g) in ethanol (3 ml), and the resulting mixture was stirred under hydrogen at 25° C until an equimolar amount of hydrogen (48 ml) was consumed. The catalyst was filtered off, and the filtrate was concentrated in vacuum and chromatographed to afford 8-[4(p-fluorophenyl)-4-hydroxy-2-butenyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one as oily materials. νC=Oneat 1700 cm-1.

reactant | quinoline | 15 mg | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 8-[4(p-fluorophenyl)-4-hydroxy-2-butynyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | 0.80 g | FC1=CC=C(C=C1)C(C#CCN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1)O | C23H24FN3O2
reactant | hydrogen | 48 ml | [H][H] | H2
catalyst | palladium | [Pd] | Pd
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | palladium on barium sulfate | 30 mg | [Pd] | Pd
product | 8-[4(p-fluorophenyl)-4-hydroxy-2-butenyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | FC1=CC=C(C=C1)C(C=CCN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1)O | C23H26FN3O2
